US05294610
A mixture of 15.7 g (50 mmoles) of 1,3,5-tribromobenzene and 1.344 g (56 mmoles) of magnesium in 200 mL of THF was stirred 5 hrs. At room temperature 7.5 mL (100 mmoles) of DMF was then added at 0° and the reaction mixture was stirred overnight. Solvent was removed in vacuo at room temperature the residue was taken up in 200 mL of ethyl acetate and washed with 6×50 mL of satd. sodium chloride soln. The organic phase was dried over anhyd. MgSO4. Solvent was removed to give a crude solid, which was dissolved in minimum amount of methylene chloride, and applied on silica gel. Elution with 1:9 mixture of ether:hexane mixture containing 3% methylene chloride gave the desired 3,5-dibromobenzaldehyde as white solid.

reactant | 1,3,5-tribromobenzene | 50 mmoles, 15.7 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | magnesium | 56 mmoles, 1.344 g | [Mg] | Mg
reactant | DMF | 100 mmoles, 7.5 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,5-dibromobenzaldehyde | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
